US04576957
1H-Imidazole-1-pentanamine
A mixture of 19.6 g. of sodium imidazole 59.2 g. of N-(5-bromopentyl)phthalimide and 300 ml. of dimethylformamide as stirred in an oil bath at 100° C. for 8 hours and then concentrated to remove the dimethylformamide. The residue was extracted twice with toluene and then concentrated in vacuo, giving 51.5 g. of 2-[5-(1H-imidazol-1-yl)pentyl]-1H-isoindole-1,3(2H)-dione as an oil. This oil was mixed with 8.73 ml. of hydrazine hydrate and 400 ml. of ethanol and heated on a steam bath for 3 hours. After cooling, 360 ml. of 3N hydrochloric acid was added and the mixture was refluxed for 2 hours. This mixture was filtered and the filtrate was concentrated with intermittent filtration to about 60 ml. Potassium carbonate was added to this oil which was then extracted with dichloromethane. The extract was concentrated to an oil which was distilled (Kugelrohr), giving 13.4 g. of the desired intermediate as a clear liquid.

reactant | sodium imidazole | 59.2 g | N1C=NC=C1.[Na]
reactant | N-(5-bromopentyl)phthalimide | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | 2-[5-(1H-imidazol-1-yl)pentyl]-1H-isoindole-1,3(2H)-dione | N1(C=NC=C1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C16H17N3O2
reactant | hydrazine hydrate | O.NN
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1H-Imidazole-1-pentanamine | N1(C=NC=C1)CCCCCN | C8H15N3
